US07943614B2
600 mg of ethyl 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate and 194 mg of 3-amino-6-chloropyridazine were added to 5 ml of bromobenzene, and the mixture was stirred at 160° C. for 4 hours. The reaction mixture was cooled to room temperature, and subjected to silica gel chromatography (chloroform:methanol=20:1). The resulting crude product was washed with a mixture of t-butyl methyl ether and n-hexane, and dried to obtain 311 mg of N-(6-chloro-3-pyridazinyl)-5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide (hereinafter, referred to as present compound 19) represented by the formula:

reactant | ethyl 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate | 600 mg | FC=1C(=C(C(N(C1C)C)=O)C(=O)OCC)O | C10H12FNO4
reactant | 3-amino-6-chloropyridazine | 194 mg | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | bromobenzene | 5 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | N-(6-chloro-3-pyridazinyl)-5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide | 311 mg | ClC1=CC=C(N=N1)NC(=O)C=1C(N(C(=C(C1O)F)C)C)=O | C12H10ClFN4O3
